US07022849B2
2-[[4-[[[4-(Aminosulfonyl)phenyl]methyl]amino]-6,7-dimethoxy-2-quinazolinyl]amino]-4-trifluoromethyl-5-thiazolecarboxylic acid, ethyl ester
A14 was prepared in an manner analogous to example A1 with the exception that in step A1.1 4-aminosulfonylbenzylamine hydrochloride was substituted for 4-methylsulfonylbenzylamine hydrochloride, and in step A1.2 ethyl 2-amino-4-trifluoromethyl-5-thiazole carboxylate was substituted for ethyl 2-amino-4-methyl-5-thiazole carboxylate. LCMS=Ret. Time=1.61 min*, M+=613.20* HPLC conditions used to determine retention times; 2 min gradient 0–100% B in A(A; 0.1% TFA in 90/10 water/methanol; B; 0.1% TFA in 10/90 water/methanol) using a TMC turbopack column at 220 nm.

reactant | 4-aminosulfonylbenzylamine hydrochloride | Cl.NS(=O)(=O)C1=CC=C(CN)C=C1
reactant | 4-methylsulfonylbenzylamine hydrochloride | Cl.CS(=O)(=O)C1=CC=C(CN)C=C1
reactant | ethyl 2-amino-4-trifluoromethyl-5-thiazole carboxylate | NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C7H7F3N2O2S
reactant | ethyl 2-amino-4-methyl-5-thiazole carboxylate | NC=1SC(=C(N1)C)C(=O)OCC | C7H10N2O2S
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | water methanol | O.CO
product | 2-[[4-[[[4-(Aminosulfonyl)phenyl]methyl]amino]-6,7-dimethoxy-2-quinazolinyl]amino]-4-trifluoromethyl-5-thiazolecarboxylic acid, ethyl ester | NS(=O)(=O)C1=CC=C(C=C1)CNC1=NC(=NC2=CC(=C(C=C12)OC)OC)NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC | C24H23F3N6O6S2
